US07119115B2
20 cm3 of ethyl diazoacetate, followed by slow addition of 210 cm3 of a solution of lithium diisopropylamide prepared beforehand from 140.7 cm3 of 1.6M n-butyllithium and 35.55 cm3 of diisopropylamine in solution in 35 cm3 of tetrahydrofuran are added dropwise to a solution, maintained at −78° C., of 35 g of 4,4-diphenylcyclohex-2-enone in 315 cm3 of tetrahydrofuran. After addition, the reaction mixture is stirred at a temperature in the region of −78° C. for 2 hours. 28.2 cm3 of glacial acetic acid are then added and the temperature is allowed to rise to the region of 20° C. 350 cm3 of toluene are then added and the resulting solution is successively washed with 200 cm3 of saturated aqueous sodium bicarbonate solution and 200 cm3 of water. The organic phase obtained is concentrated under reduced pressure in order to remove the tetrahydrofuran. The resulting toluene phase is refluxed for 4 hours in a round-bottomed flask surmounted with a Dean-Stark trap and then concentrated to dryness under reduced pressure. The residue obtained is purified by flash chromatography on silica gel (35–70 μm), eluting with a cyclohexane/ethyl acetate (80/20) mixture; 43.1 g of ethyl 6,6-diphenyl-6,7-dihydro-2H-indazole-3-carboxylate are obtained in the form of a white powder, the characteristics of which are as follows:

reactant | ethyl diazoacetate | 20 cm3 | [N+](=[N-])=CC(=O)OCC | C4H6N2O2
reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | n-butyllithium | 1.6M, 140.7 cm3 | C(CCC)[Li]
reactant | diisopropylamine | 35.55 cm3 | C(C)(C)NC(C)C | C6H15N
reactant | 4,4-diphenylcyclohex-2-enone | 35 g | C1(=CC=CC=C1)C1(C=CC(CC1)=O)C1=CC=CC=C1 | C18H16O
solvent | tetrahydrofuran | 35 cm3 | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 315 cm3 | O1CCCC1 | C4H8O
solvent | toluene | 350 cm3 | C1(=CC=CC=C1)C | C7H8
solvent | acetic acid | 28.2 cm3 | C(C)(=O)O | C2H4O2
product | ethyl 6,6-diphenyl-6,7-dihydro-2H-indazole-3-carboxylate | 43.1 g | C1(=CC=CC=C1)C1(C=CC2=C(NN=C2C1)C(=O)OCC)C1=CC=CC=C1 | C22H20N2O2
